US09428509B2
4-(2-Chloro-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide
To a degassed mixture of 2-chloro-4-cyclobutoxy-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), N-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (1.2 equiv) and tripotassium phosphate trihydrate (3 equiv) in a 9:1 mixture of 1,4-dioxane and water (0.1 M) was added palladium 1,1-bis(diphenylphosphino)ferrocene dichloride (0.1 equiv). The reaction mixture was stirred at 80° C. for 2 h. After the reaction was completed, the reaction mixture was cooled to room temperature and concentrated. The residue was purified by silica gel chromatography (0-30% ethyl acetate in petroleum ether) to afford the title compound (67% yield) as a yellow solid. MS (ESI) m/z 487.2 [M+1]+.

reactant | 2-chloro-4-cyclobutoxy-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCC2 | C16H23ClIN3O2Si
reactant | N-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 1.2 equiv | CNC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C14H20BNO3
reactant | tripotassium phosphate trihydrate | 3 equiv | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 0.1 M | O | H2O
product | 4-(2-Chloro-4-cyclobutoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 67% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CCC2 | C24H31ClN4O3Si
